US06949579B2
N-[6-(4-hydroxyphenyl)-1H-indazol-3-yl]butanamide
0.15 cm3 of iodotrimethylsilane and then 5 cm3 of tetrahydrofuran are added to 200 mg of N-[6-[4-(phenylmethoxy)phenyl]-1H-indazol-3-yl]butanamide, described previously, in 7.5 cm3 of acetonitrile, and the medium is heated at about 82° C. for 2 hours. 0.15 cm3 of iodotrimethylsilane is added and heating is continued for 17 hours. The reaction medium is then evaporated to dryness under reduced pressure (2 kPa; 40° C.). The residue is taken up in 75 cm3 of ethyl acetate, and this mixture is then washed with 2×50 cm3 of saturated aqueous sodium sulphate solution and with 50 cm3 of saturated sodium chloride solution. The organic phase is dried over magnesium sulphate, filtered and then evaporated under reduced pressure (2 kPa; 45° C.). The residue is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 1.5 cm), eluting with ethyl acetate and collecting 30 cm3 fractions. The fractions containing the expected product are combined and evaporated under reduced pressure (2 kPa; 50° C.). The residue is washed with 3×5 cm3 of diisopropyl ether. It is filtered off on a sinter funnel and, after drying (90 Pa; 40° C.), 100 mg of N-[6-(4-hydroxyphenyl)]-1H-indazol-3-yl]butanamide are thus obtained in the form of a white solid melting at about 235° C.

reactant | iodotrimethylsilane | 0.15 cm3 | I[Si](C)(C)C | C3H9ISi
reactant | tetrahydrofuran | 5 cm3 | O1CCCC1 | C4H8O
reactant | N-[6-[4-(phenylmethoxy)phenyl]-1H-indazol-3-yl]butanamide | 200 mg | C1(=CC=CC=C1)COC1=CC=C(C=C1)C1=CC=C2C(=NNC2=C1)NC(CCC)=O | C24H23N3O2
reactant | iodotrimethylsilane | 0.15 cm3 | I[Si](C)(C)C | C3H9ISi
solvent | acetonitrile | 7.5 cm3 | C(C)#N | C2H3N
product | N-[6-(4-hydroxyphenyl)-1H-indazol-3-yl]butanamide | OC1=CC=C(C=C1)C1=CC=C2C(=NNC2=C1)NC(CCC)=O | C17H17N3O2
